US06359138B1
(RS)-4-(4-Fluoro-benzyl)-1-(5-benzyloxy-2 3-dihydro-benzofuran-2-ylmethyl)-piperidin-4-ol
The title compound MS: m/e=448.6 (M+H+) was prepared from 4-(4-fluoro-benzyl)-piperidin-4-ol and 5-benzyloxy-2-(RS)-bromomethyl-2,3-dihydro-benzofuran.

reactant | 4-(4-fluoro-benzyl)-piperidin-4-ol | FC1=CC=C(CC2(CCNCC2)O)C=C1 | C12H16FNO
reactant | 5-benzyloxy-2-(RS)-bromomethyl-2,3-dihydro-benzofuran | C(C1=CC=CC=C1)OC=1C=CC2=C(CC(O2)CBr)C1 | C16H15BrO2
product | (RS)-4-(4-Fluoro-benzyl)-1-(5-benzyloxy-2 3-dihydro-benzofuran-2-ylmethyl)-piperidin-4-ol | FC1=CC=C(CC2(CCN(CC2)CC2OC3=C(C2)C=C(C=C3)OCC3=CC=CC=C3)O)C=C1 | C28H30FNO3
